US07135472B2
(S)-2-Dimethylamino-N-[1-(3-pyridin-3-yl-phenyl)-ethyl]-acetamide
A mixture of dimethylamino-acetic acid (0.083 mmol), (S)-1-(3-pyridin-3-yl-phenyl)-ethylamine (12.7 mg, 0.064 mmol), EDAC.HCl (18.4 mg, 0.096 mmol), HOBT (13 mg, 0.096 mmol) and diisopropylethylamine (33 μL, 0.192 mmol) in DMF (2 mL) was stirred at room temperature for 18 h, and the reaction mixture was purified by preparative HPLC (5 mM NH4OAc buffer; gradient 0% to 100% B in 10 min (A: 10% CH3CN/H2O ; B: 90% CH3CN/H2O; column: Primesphere C18 HC 21.2×100 mm) to afford the title product.

reactant | dimethylamino-acetic acid | 0.083 mmol | CN(C)CC(=O)O | C4H9NO2
reactant | (S)-1-(3-pyridin-3-yl-phenyl)-ethylamine | 0.064 mmol, 12.7 mg | N1=CC(=CC=C1)C=1C=C(C=CC1)[C@H](C)N | C13H14N2
reactant | EDAC.HCl | 0.096 mmol, 18.4 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.096 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.192 mmol, 33 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-2-Dimethylamino-N-[1-(3-pyridin-3-yl-phenyl)-ethyl]-acetamide | CN(CC(=O)N[C@@H](C)C1=CC(=CC=C1)C=1C=NC=CC1)C | C17H21N3O
